US08012966B2
N-{3-[3-Methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-formamide
The title compound was prepared under the same conditions as described in Example 13 with 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-formamide as starting materials to give N-{3-[3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-formamide (48 mg, 87.9%) as an orange solid.

reactant | 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=O | C15H21N3O2
reactant | N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-formamide | O=C1NC2=CC=C(C=C2C1)NC=O | C9H8N2O2
product | N-{3-[3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-5-yl}-formamide | 48 mg, 87.9% | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=C2C(NC1=CC=C(C=C21)NC=O)=O | C24H27N5O3
